### PR TITLE
More arithmetic theorems

### PR DESCRIPTION
**Pull request by CohenCyril**
##### Motivation for this change
Missing arithmetic theorems

In ssrnat:
- some trivial results in ssrnat `addnKC`, `ltn_predl`, `ltn_predr`, `ltn_subr` and `predn_sub`
- theorems about `n <=/< p +/- m`  and `m +/- n <=/< p`
  `leq_psubRL`, `ltn_psubLR`, `leq_subRL`, `ltn_subLR`,
  `leq_subCl`, `leq_psubCr`, `leq_subCr`, `ltn_subCr`, `ltn_psubCl` and `ltn_subCl`

In div:
- theorems about the euclidean division of additions and subtraction,
  + without preconditions of divisibility:
    `edivnD`, `edivnB`, `divnD`, `divnB`, `modnD`, `modnB`
  + with divisibility of one argument:
    `divnDMl`, `divnMBl`, `divnBMl`, `divnBl` and `divnBr`
  + specialization of the former theorems for .+1 and .-1:
    `edivnS`, `divnS`, `modnS`, `edivn_pred`, `divn_pred` and `modn_pred`

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
- ~[ ] added corresponding documentation in the headers~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/ssreflect/ssrnat.v [hunk 1]
```diff
@@ -279,6 +279,9 @@ Proof. by move=> m; rewrite /= -{2}[n]addn0 subnDl subn0. Qed.
 Lemma addnK n : cancel (addn^~ n) (subn^~ n).
 Proof. by move=> m; rewrite /= (addnC m) addKn. Qed.
 
+Lemma addnKC n m : (n + m) - n = m.
```
Comment (llelf) [inline mathcomp/ssreflect/ssrnat.v]: Isn’t that `addKn`?

Comment (CohenCyril) [reply mathcomp/ssreflect/ssrnat.v]: Yes you are right. I will remove it.

File: mathcomp/ssreflect/ssrnat.v [hunk 2]
```diff
@@ -532,6 +541,9 @@ Proof. by move=> le_pm le_pn; rewrite addnBA // addnBAC. Qed.
 Lemma subnBA m n p : p <= n -> m - (n - p) = m + p - n.
 Proof. by move=> le_pn; rewrite -{2}(subnK le_pn) subnDr. Qed.
 
+Lemma ltn_subr m n : m <= n -> (n - m < n) = (m > 0).
```
Comment (anton-trunov) [inline mathcomp/ssreflect/ssrnat.v]: @CohenCyril There is an equivalence like `ltn_subr` lemma: `(n - m < n) = (m > 0) && (n > 0)`. Do you think it's worth it to add the equivalence too?

Comment (CohenCyril) [reply mathcomp/ssreflect/ssrnat.v]: cf #399
